US05798374
4-Allyl-3-hydroxy-5-[(5-nitrothiazol-2-yl)mercapto]1,2,4-triazole (Compound 14)
The title compound was prepared in a similar manner described in Example 6 starting with allyl isothiocyanate. 4-Allyl-3-hydroxy-5-mercapto-1,2,4-triazole was reacted with 2-bromo-5-nitrothiazole as in Example 6. Crystallization from ethanol and water gave 4-allyl-3-hydroxy-5-[(5-nitrothiazol-2-yl)mercapto]-1,2,4-triazole as a yellow solid.

reactant | allyl isothiocyanate | C(C=C)N=C=S | C4H5NS
reactant | 4-Allyl-3-hydroxy-5-mercapto-1,2,4-triazole | C(C=C)N1C(=NN=C1S)O | C5H7N3OS
reactant | 2-bromo-5-nitrothiazole | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
product | 4-allyl-3-hydroxy-5-[(5-nitrothiazol-2-yl)mercapto]-1,2,4-triazole | C(C=C)N1C(=NN=C1SC=1SC(=CN1)[N+](=O)[O-])O | C8H7N5O3S2
